US08877742B2
6-bromo-4-fluoro-1-methylindoline
To a stirred solution of 6-bromo-4-fluoro-1H-indole (412 mg, 1.925 mmol) in acetic acid (10.600 mL) at RT was added sodium cyanoborohydride (605 mg, 9.62 mmol). Reaction mixture was stirred for 15 mins Paraformaldehyde (578 mg, 19.25 mmol) was then added and the reaction mixture was stirred at RT for 4 hours. Reaction mixture was quenched with saturated Na2CO3 aqueous solution (ca. 30 mL) and extracted with DCM (ca. 25 mL twice). The combined organic layers were dried over phase separator and solvent removed in vacuo. The resulting material was purified using chromatography on silica (eluted with 5-10% ethyl acetate/cyclohexane) to afford the title compound (180 mg). LCMS (A): m/z (M+H)+ 230/232, C9H9BrFN requires 229/231 (acidic).

reactant | 6-bromo-4-fluoro-1H-indole | 1.925 mmol, 412 mg | BrC1=CC(=C2C=CNC2=C1)F | C8H5BrFN
reactant | sodium cyanoborohydride | 9.62 mmol, 605 mg | C(#N)[BH3-].[Na+]
reactant | Paraformaldehyde | 19.25 mmol, 578 mg | C=O | CH2O
solvent | acetic acid | 10.600 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-4-fluoro-1-methylindoline | 180 mg | BrC1=CC(=C2CCN(C2=C1)C)F | C9H9BrFN
